US04808749
Using the procedure of Example 1, (1R,cis) 2,2-dimethyl-3(E)-[2-fluoro-2-ethoxycarbonyl-ethenyl]-cyclopropane-1-carboxylic acid and 3-phenoxy-benzyl alcohol were reacted to obtain 3-phenoxy-benzyl (1R,cis) 2,2-dimethyl-3(E)-[2-fluoro-2-ethoxycarbonyl-ethenyl]-cyclopropane-1-carboxylate.

reactant | (1R,cis) 2,2-dimethyl-3(E)-[2-fluoro-2-ethoxycarbonyl-ethenyl]-cyclopropane-1-carboxylic acid | CC1([C@@H]([C@@H]1\C=C(/C(=O)OCC)\F)C(=O)O)C | C11H15FO4
reactant | 3-phenoxy-benzyl alcohol | O(C1=CC=CC=C1)C=1C=C(CO)C=CC1 | C13H12O2
product | 3-phenoxy-benzyl (1R,cis) 2,2-dimethyl-3(E)-[2-fluoro-2-ethoxycarbonyl-ethenyl]-cyclopropane-1-carboxylate | CC1([C@@H]([C@@H]1\C=C(/C(=O)OCC)\F)C(=O)OCC1=CC(=CC=C1)OC1=CC=CC=C1)C | C24H25FO5
